US06235787B1
A solution of 0.15 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-(2-methylphenyl)valerohydrazide in 5 ml of dichloromethane was treated with 0.09 g of pyridine and 0.1 g of methanesulphonic anhydride. After stirring for 1.5 hours a further 0.05 g of pyridine and 0.06 g of methanesulphonic anhydride were added and the mixture was stirred for a further 2 hours. The solvent was evaporated and the residue was partitioned between ethyl acetate and 5% citric acid solution. The ethyl acetate solution was washed with water, 5% aqueous sodium hydrogen carbonate solution and saturated sodium chloride solution and then dried over anhydrous magnesium sulphate. After evaporation of the solvent the residue was purified by flash chromatography on silica gel using hexane/ethyl acetate (6:1) for the elution. There was obtained 0.16 g of (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2-(methanesulphonyl)-4-methyl-2′-(2-methylphenyl)valerohydrazide in the form of a yellow gum.

reactant | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-2′-(2-methylphenyl)valerohydrazide | 0.15 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNC1=C(C=CC=C1)C)CC(C)C | C28H38N2O3
reactant | pyridine | 0.09 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonic anhydride | 0.1 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | pyridine | 0.05 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonic anhydride | 0.06 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (E)-2(R)-[1(S)-(tert-butoxycarbonyl)-4-phenyl-3-butenyl]-2-(methanesulphonyl)-4-methyl-2′-(2-methylphenyl)valerohydrazide | 0.16 g | C(C)(C)(C)OC(=O)[C@H](C\C=C\C1=CC=CC=C1)[C@@](C(=O)NNC1=C(C=CC=C1)C)(CC(C)C)S(=O)(=O)C | C29H40N2O5S
